US07595312B2
1b 4-amino-3-chloro-5-trifluoromethyl-benzaldehyde
A mixture of 17.0 g (75.4 mmol) of (4-amino-3-chloro-5-trifluoromethyl-phenyl)-methanol, 100 g (1.15 mol) of manganese dioxide and 300 mL of DCM was stirred overnight at RT. The precipitate was suction filtered and the solution evaporated down i. vac. The desired product was obtained as a white solid.

reactant | (4-amino-3-chloro-5-trifluoromethyl-phenyl)-methanol | 75.4 mmol, 17.0 g | NC1=C(C=C(C=C1C(F)(F)F)CO)Cl | C8H7ClF3NO
catalyst | manganese dioxide | 1.15 mol, 100 g | [O-2].[O-2].[Mn+4]
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 4-amino-3-chloro-5-trifluoromethyl-benzaldehyde | NC1=C(C=C(C=O)C=C1C(F)(F)F)Cl | C8H5ClF3NO
